US05733519
The method of the present invention generally involves the mixture of titanium dioxide and hot concentrated phosphoric acid in a reaction vessel. The reaction mixture has a phosphorus pentoxide to titanium dioxide mole ratio greater than one. Preferably, the phosphorus pentoxide to titanium dioxide mole ratio is about 1.06 or more, and most preferably about 1.20 to about 1.25. The reactants are thoroughly mixed and heated at temperatures of about 400° C. to about 500° C. to produce a fine titanium pyrophosphate powder having a significantly higher fines yield over conventional titanium pyrophosphate processes. The fines yield is greater than 90% when using a phosphorus pentoxide to titanium dioxide mole ratio of about 1.20 to about 1.25.

reactant | titanium dioxide | [O-2].[O-2].[Ti+4]
reactant | phosphoric acid | P(O)(O)(O)=O | H3O4P
reactant | phosphorus pentoxide | O=P12OP3(=O)OP(=O)(O1)OP(=O)(O2)O3 | O10P4
product | titanium pyrophosphate | [O-]P([O-])(=O)OP(=O)([O-])[O-].[Ti+4] | InChI=1S/H4O7P2.Ti/c1-8(2,3)7-9(4,5)6;/h(H2,1,2,3)(H2,4,5,6);/q;+4/p-4
